US04016274
4-Trifluoromethyl-phthalic acid (106.6 g.) and acetic anhydride (215 cc.) are heated to the reflux temperature for 30 minutes. After concentration under reduced pressure (30 mm Hg), the residue is stirred with cyclohexane (420 cc.). After filtration and drying, 4-trifluoromethyl-phthalic anhydride (73.5 g.) melting at 54° C is obtained.

reactant | 4-Trifluoromethyl-phthalic acid | 106.6 g | FC(C=1C=C(C(C(=O)O)=CC1)C(=O)O)(F)F | C9H5F3O4
reactant | acetic anhydride | 215 cc | C(C)(=O)OC(C)=O | C4H6O3
product | 4-trifluoromethyl-phthalic anhydride | 73.5 g | FC(C=1C=C2C(C(=O)OC2=O)=CC1)(F)F | C9H3F3O3
